US05169860
Preparation of N-[[(4-methylphenyl)amino]carbonyl]-2-benzofuransulfonamide
2-Benzofuransulfonamide (7.6 mmol), prepared as described in Example 1, was reacted with 4-methylphenylisocyanate (7.6 mmol) as described in Method A to obtain 1.6 g of the title product as a solid. 1H NMR (CD3SOCD3): δ8.91 (s, 1 H), 7.87 (d, J =8 Hz, 1 H), 7.81 (s, 1 H), 7.76 (d, J =8 Hz, 1 H), 7.57 (dd, J =8, 8 Hz, 1 H), 7.42 (dd, J =8, 8 Hz, 1 H), 7.28 (d, J =9 Hz, 2 H), 7.07 (d, J =9 Hz, 2 H), 2.23 (s, 3 H). Analysis for C16H14N2O4S:

reactant | 2-Benzofuransulfonamide | 7.6 mmol | O1C(=CC2=C1C=CC=C2)S(=O)(=O)N | C8H7NO3S
reactant | 4-methylphenylisocyanate | 7.6 mmol | CC1=CC=C(C=C1)N=C=O | C8H7NO
product | N-[[(4-methylphenyl)amino]carbonyl]-2-benzofuransulfonamide | 1.6 g | CC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C16H14N2O4S
